US05614517
4.2. Methyl trans-10-methoxy-8-oxo-5,8,13,13a-tetrahydro-6H-dibenzo[a,g]quinolizine-13-carboxylate
A suspension of 14 g (43.3 mmol ) of 10-methoxy-8-oxo-5,8,13,13a-tetrahydro-6H-dibenzo[a,g]quinolizine-13-carboxylic acid in 100 ml of methanol is prepared in a 500 ml three-necked round-bottomed flask, 3.2 ml (44.11 mmol) of thionyl chloride are added dropwise and the mixture is heated to reflux for 4 h.

reactant | 10-methoxy-8-oxo-5,8,13,13a-tetrahydro-6H-dibenzo[a,g]quinolizine-13-carboxylic acid | 43.3 mmol, 14 g | COC=1C=CC2=C(C(N3CCC4=C(C3C2C(=O)O)C=CC=C4)=O)C1 | C19H17NO4
reactant | thionyl chloride | 44.11 mmol, 3.2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | Methyl trans-10-methoxy-8-oxo-5,8,13,13a-tetrahydro-6H-dibenzo[a,g]quinolizine-13-carboxylate | COC=1C=CC2=C(C(N3CCC4=C([C@@H]3[C@@H]2C(=O)OC)C=CC=C4)=O)C1 | C20H19NO4
